### PR TITLE
[Add] Division properties for Nat, Integer, and Rational

### PR DESCRIPTION
**Pull request by aortega0703**
Hi, I saw there weren't many properties for division outside of Naturals so I went ahead and proved some for (Unnormalised) Rationals and Integers (and Naturals too):

`Data.Rational.Unnormalised`:
* `/-distribʳ-+`: fractions with sums on the numerator can be "split" into sums of fractions
* `n/d≡[n/1]*[1/d]`: this was more of a convenience to prove `/-distribʳ-+` but I thought it could be useful enough to add it separately (maybe not?).
* `/-monoˡ-<`, `/-monoʳ-<-pos`, `/-monoʳ-<-neg`, `/-monoˡ-≤`, `/-monoʳ-≤-nonNeg`, and `/-monoʳ-≤-nonPos`: In `Rational` denominators are `ℕ`s, so there isn't a sign hell as with `Integer`.

`Data.Integer.DivMod`:
* `n<0⇒n/ℕd<0`: there was already `0≤n⇒0≤n/ℕd` so I added "the other case".
* `0/d≡0` and `n/1≡n` (also for `/ℕ`).
* `n/ℕd≡0⇒∣n∣<d` and `n/d≡0⇒∣n∣<∣d∣`: the integer version of `m/n≡0⇒m<n`.
* `0≤n<d⇒n/d≡0` (also `/ℕ`): the "converse" (not really), an int version of `m<n⇒m/n≡0`.
* `/ℕ-monoˡ-≤` (and helpers), `/ℕ-monoʳ-≤-nonNeg` and `/ℕ-monoʳ-≤-nonPos`.
* `/-monoˡ-≤-pos` and `/-monoˡ-≤-neg`: I put a reduntant `NonZero` to make `_/_` happy where only `Positive`/`Negative` should really suffice. I admit I tried deriving the `NonZero` but I don't know how to do it without making the type too verbose/ugly.
* `/-monoʳ-≤-nonNeg-eq-signs` and `/-monoʳ-≤-nonPos-eq-signs`: The proofs for these are basically the same, extremely so (just swapping the denominators names), but I can't figure a way to prove one with the other. `(- n) / d` and `- (n / d)` are not always equal so I can't just convert the numerator from `nonPos` to `nonNeg`, but maybe there's another way?
* `/-monoʳ-≤-nonNeg-op-signs` and `/-monoʳ-≤-nonPos-op-signs`: I also noticed how `/-monoʳ-≤-nonNeg-eq-signs` and `/-monoʳ-≤-nonPos-op-signs` have basically the same type (their counterparts too) but I don't know If it's better to keep them separate or combine them and ask for something like `sign (n * d₁ * d₂) ≡ Sign.+` in the type.

`Data.Nat.DivMod`:
* `sn%d≡0⇒sn/d≡s[n/d]` and `sn%d>0⇒sn/d≡n/d`: These really really (really) helped to reason about Integer division. Also, they are nice in that they describe whether the quotient increases with the dividend or it stays the same.
* `%-pred-≡suc`: This is "the other case" of `%-pred-≡0`, it says that the remainder increases on par with the dividend (exept for the jump at remainder 0). I don't like the name on this one but I retained the name style of `%-pred-≡0`.

I have yet to translate the `Unnormalised` proofs to normalised Rationals and I'm not sure about the whole deal with the signs on the types for `/-mono` on Integers so it's a draft for now.

### CODE REVIEW

File: src/Data/Integer/DivMod.agda [hunk 1]
```diff
@@ -94,6 +100,15 @@ div-neg-is-neg-/ℕ n (ℕ.suc d) = -1*i≡-i (n /ℕ ℕ.suc d)
   rewrite div-pos-is-/ℕ n d {{d≢0}}
         = 0≤n⇒0≤n/ℕd n d 0≤n
 
+n<0⇒n/ℕd<0 : ∀ n d .{{_ : ℕ.NonZero d}} → n < 0ℤ → (n /ℕ d) < 0ℤ
+n<0⇒n/ℕd<0 -[1+ n ] d -<+
+  with ℕ.suc n ℕ.% d in sn%d
+... | ℕ.zero  = begin-strict
+  - (+ (ℕ.suc n ℕ./ d))   ≡⟨ cong (-_ ∘′ +_) (ℕ.sn%d≡0⇒sn/d≡s[n/d] n d sn%d) ⟩
```
Comment (JacquesCarette) [inline src/Data/Integer/DivMod.agda]: This small bit of reasoning feels like a lemma that should be pulled out.

File: src/Data/Integer/DivMod.agda [hunk 2]
```diff
@@ -129,6 +144,175 @@ a≡a%n+[a/n]*n n d@(-[1+ _ ]) = begin-equality
...
+n/ℕd≡0⇒∣n∣<d (-[1+ n ]) d n/ℕd≡0 with ℕ.zero ← ℕ.suc n ℕ.% d
+    | ℕ.suc n ℕ./ d in n/d
+... | ℕ.zero  = ℕ.m/n≡0⇒m<n n/d
+... | ℕ.suc _ = contradiction n/ℕd≡0 λ ()
+
+0≤n<d⇒n/ℕd≡0 : ∀ n d .{{_ : NonNegative n }} .{{_ : ℕ.NonZero d}} →
+                n < + d → n /ℕ d ≡ 0ℤ
+0≤n<d⇒n/ℕd≡0 (+ n) d (+<+ n<d) = cong (+_) (ℕ.m<n⇒m/n≡0 n<d)
+
+n/d≡0⇒∣n∣<∣d∣ : ∀ n d .{{_ : NonZero d}} → n / d ≡ 0ℤ → ∣ n ∣ ℕ.< ∣ d ∣
```
Comment (JacquesCarette) [inline src/Data/Integer/DivMod.agda]: Shouldn't there be a proof that does not need to split on `n`? The assumptions imply that `n` is 0, and since d is NonZero, the conclusion ought to follow from properties of abs.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 3]
```diff
@@ -1565,6 +1566,73 @@ p>1⇒1/p<1 {p} p>1 = lemma′ p (p>1⇒p≢0 p>1) p>1
     1/q≥0 : NonNegative 1/q
     1/q≥0 = pos⇒nonNeg 1/q {{1/pos⇒pos q}}
 
+------------------------------------------------------------------------
+-- Properties of _/_
+
+n/d≡[n/1]*[1/d] : ∀ n d .{{_ : ℕ.NonZero d}} → n / d ≡ (n / 1) * (1ℤ / d)
```
Comment (JacquesCarette) [inline src/Data/Rational/Unnormalised/Properties.agda:1576]: Do we also have n/d = [n/a]*[a/d] somewhere?

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Nice. Some of the proofs seem to go rather "low level" though.

File: src/Data/Integer/DivMod.agda (hunk 2 above)
Comment (aortega0703) [reply src/Data/Integer/DivMod.agda]: But `n` is not necessarily 0 here (e.g. `+ 1 / -[1+ 1 ] ≡ + 0`). That said, integer division evaluates to 0 whenever `0 ≤ n < d` (negative numerator never divides to 0) so maybe I should split this into two proofs for `n / d ≡ 0ℤ → n ℕ.< ∣ d ∣` and `n / d ≡ 0ℤ → NonNegative n`?

File: src/Data/Integer/DivMod.agda (hunk 1 above)
Comment (aortega0703) [reply src/Data/Integer/DivMod.agda]: I actually had a question about this bit. The definition for `/ℕ` has
```agda
(-[1+ n ] /ℕ d) with ℕ.suc n ℕ.% d
... | ℕ.zero  = - (+ (ℕ.suc n ℕ./ d))
... | ℕ.suc r = -[1+ (ℕ.suc n ℕ./ d) ]
```
That bit of reasoning (that I used a lot) transforms that `- (+ (ℕ.suc n ℕ./ d))` into `-[1+ n ℕ./ d ]` which I found easier to work with (so that agda doesn't entertain the possibility of it being `+ 0`). I tried pulled it out as its own thing
```agda
sn%d≡0⇒-[1+n]/d≡-[1+[n/d]] : ∀ n d .{{_ : ℕ.NonZero d}} →
                            ℕ.suc n ℕ.% d ≡ 0 → -[1+ n ] /ℕ d ≡ -[1+ n ℕ./ d ]
sn%d≡0⇒-[1+n]/d≡-[1+[n/d]] n d _ with ℕ.zero ← ℕ.suc n ℕ.% d in sn%d≡0 =
  cong (-_ ∘′ +_) (ℕ.sn%d≡0⇒sn/d≡s[n/d] n d sn%d≡0)
```
but when I try to use it after a `with` abstraction, say
```agda
n<0⇒n/ℕd<0 : ∀ n d .{{_ : ℕ.NonZero d}} → n < 0ℤ → (n /ℕ d) < 0ℤ
n<0⇒n/ℕd<0 -[1+ n ] d -<+
  with ℕ.suc n ℕ.% d in sn%d
... | ℕ.zero  = begin-strict
  {! -[1+ n ] /ℕ d !} ≡⟨ {!!} ⟩ {!!}
... | ℕ.suc _ = -<+
```
Agda seems to "forget" that the starting term should be equal to `-[1+ n ] /ℕ d` (I get `[UnequalTerms] (-[1+ n ] /ℕ d | ℕ.suc n ℕ.% d) != - (+ (ℕ.suc n ℕ./ d))`) so I can't apply my lemma. Is there a way to get around this I'm not aware of, or how should I go about extracting this lemma?

File: src/Data/Integer/DivMod.agda (hunk 2 above)
Comment (JacquesCarette) [reply src/Data/Integer/DivMod.agda]: My mistake, I mis-interpreted `/` here. Your comment, on the other hand, is a good idea.

File: src/Data/Integer/DivMod.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Data/Integer/DivMod.agda]: I think you're running into the fragility of `with` here. Personally, the first thing I would do is to create a `/ℕ-helper` function that does the current `with` "by hand". And export it, so lemmas about it can be proved.

Then you'll find that downstream uses of `with` in proofs won't forget quite as much.

Comment (aortega0703) [reply src/Data/Integer/DivMod.agda]: Hi, I think I was able to figure out how to make that `with` work in the end and I feel a bit silly about how easy the fix was. I thought about the `/ℕ-helper` thing but (if I understood correctly) I felt changing the implementation of `/ℕ` might cause a whole mess on other modules so I left that alone. Do the changes look good?

**Comment by jamesmckinna** [comment]
@aortega0703 are you planning to return to this?

**Comment by aortega0703** [comment]
> @aortega0703 are you planning to return to this?

Hi, yes! sorry for disappearing there. I just made the last proofs that I wanted for this PR (translating what I did for `Rational.Unnormalized` to `Rational`). After updating the README I just realized that in the meantime a proof for `/-distribʳ-+` was added in #2996 (under the name `i/n+j/n≡[i+j]/n`). I like mine better, but which one should I keep (and under what name)?

File: CHANGELOG.md [hunk 4]
```diff
@@ -425,6 +425,25 @@ Additions to existing modules
                 (q ℤ.* + p) / (r ℕ.* p) ≡ q / r
   i/n+j/n≡[i+j]/n : ∀ (i j : ℤ) (n : ℕ) .{{_ : ℕ.NonZero n }} →
                     i / n + j / n ≡ (i ℤ.+ j) / n
+  toℚᵘ-/ᵘ-≡ : ∀ q → toℚᵘ q ≡ ↥ q /ᵘ ↧ₙ q
+  toℚᵘ-/ᵘ-≃ : ∀ n d .{{_ : ℕ.NonZero d}} → toℚᵘ (n / d) ≃ᵘ n /ᵘ d
+  n/d≡[n/a]*[a/d] : ∀ n d a .{{_ : ℕ.NonZero d}} .{{_ : ℕ.NonZero a}} →
+                  n / d ≡ (n / a) * (+ a / d)
+  /-distribʳ-+ : ∀ d n m .{{_ : ℕ.NonZero d}} → (n ℤ.+ m) / d ≡ n / d + m / d
```
Comment (jamesmckinna) [inline CHANGELOG.md]: `m` and `n` are, by convention, metavariables for `ℕ`s, whereas `i` and `j` are used for `ℤ`...

Comment (jamesmckinna) [reply CHANGELOG.md]: As for which name is to be preferred: `/-distribʳ-+` conforms better to existing style/`field` name convention, whereas `i/n+j/n≡[i+j]/n` requires no 'interpretation'/unfolding to understand its statement. So it's a hard one to answer!

**Comment by jamesmckinna** [comment]
Re: `CHANGELOG` all the additional lemmas under `Data.Integer` and `Data.Nat` need to be added as well, *and* the `Integer` lemmas should use `i`, `j`, `k` rather than `m`, `n` etc.for `Nat`s...

File: CHANGELOG.md (hunk 4 above)
Comment (aortega0703) [reply CHANGELOG.md]: > `m` and `n` are, by convention, metavariables for `ℕ`s, whereas `i` and `j` are used for `ℤ`...

I chose `n` and `d` to suggest they are numerator and denominator (and I guess `m` followed out of habit). Should I use `n₁`-`n₂` for multiple numerators or is `i`,`j` definitively the better choice here?

Comment (jamesmckinna) [reply CHANGELOG.md]: Shoutout to @MatthewDaggitt for these naming issues. Certainly `n₁` `n₂` seem the worst of both worlds... subscripts considered undesirable if not actually harmful.

**Comment by jamesmckinna** [comment]
thanks @aortega0703 for the review request but i'll be on vacation for the next few weeks, so this will have to wait a while... perhaps suggest asking others?
